US07008638B2
Parsol MCX/parsol 5000 Nanodispersion Prephase
Preparation: Parsol 5000 is dissolved in Parsol MXC and mixed with miglyol 812 and polysorbate 80. The soybean lecithin is dissolved in ethanol and added to this mixture, resulting in a homogeneous clear liquid.

reactant | Parsol 5000 | CC1=CC=C(C=C1)/C=C/2\C3CCC(C2=O)(C3(C)C)C | C18H22O
reactant | Parsol | CCCCC(CC)COC(=O)/C=C/C=1C=CC(=CC1)OC | C18H26O3
solvent | ethanol | C(C)O | C2H6O
product | Parsol MCX parsol 5000 | CCCCC(CC)COC(=O)/C=C/C1=CC=C(C=C1)OC.CC1=CC=C(C=C1)/C=C/2\C3CCC(C2=O)(C3(C)C)C | InChI=1S/C18H26O3.C18H22O/c1-4-6-7-15(5-2)14-21-18(19)13-10-16-8-11-17(20-3)12-9-16;1-12-5-7-13(8-6-12)11-14-15-9-10-18(4,16(14)19)17(15,2)3/h8-13,15H,4-7,14H2,1-3H3;5-8,11,15H,9-10H2,1-4H3/b13-10+;14-11+
